US07119120B2
To a 30 mL vial, 1-(2-iodo-4-bromophenyl)-3-(3-trifluoromethylphenyl)urea (2.00 g, 4.12 mmol) was added along with triethylphosphite (1.03 g, 6.0 mmol) and PdCl2 (49 mg, 0.278 mmol). The vial was flushed with N2 sealed and then heated at 130° C. while stirring overnight. The resulting solution was cooled to room temperature, dissolved in a 1:1 mixture of EtOAc/hexane and then purified on a silica column using mixtures of EtOAc/hexanes to give 1.25 g of 1-(2-diethylphosphono-4-bromophenyl)-3-(3-trifluoromethylphenyl)urea as a white solid.

reactant | 1-(2-iodo-4-bromophenyl)-3-(3-trifluoromethylphenyl)urea | 4.12 mmol, 2.00 g | IC1=C(C=CC(=C1)Br)NC(=O)NC1=CC(=CC=C1)C(F)(F)F | C14H9BrF3IN2O
reactant | triethylphosphite | 6.0 mmol, 1.03 g | C(C)OP(OCC)OCC | C6H15O3P
catalyst | PdCl2 | 0.278 mmol, 49 mg | Cl[Pd]Cl
product | 1-(2-diethylphosphono-4-bromophenyl)-3-(3-trifluoromethylphenyl)urea | 1.25 g | C(C)OP(=O)(OCC)C1=C(C=CC(=C1)Br)NC(=O)NC1=CC(=CC=C1)C(F)(F)F | C18H19BrF3N2O4P
